US06759428B2
To a solution 13.45 mmol of sodium methoxide in 6 mL absolute methanol at 0° C. was added a solution of 717 mg (3.24 mmol) of tert-butyl 4-formylphenylcarbamate and 1.49 g (12.96 mmol) methylazidoacetate dissolved in 6 mL absolute methanol dropwise over 5 minutes. The mixture was stirred at 0° C. for 6 h, then partitioned between ethyl acetate and acetic acid until neutral. The organic phase was dried over magnesium sulfate, concentrated and purified by column chromatography, eluting with 25% ethyl acetate/hexane to provide 551 mg of methyl (2E)-2-azido-3-{4-[(tert-butoxycarbonyl)amino]phenyl}prop-2-enoate as a yellow solid.

reactant | sodium methoxide | 13.45 mmol | C[O-].[Na+]
reactant | tert-butyl 4-formylphenylcarbamate | 3.24 mmol, 717 mg | C(=O)C1=CC=C(C=C1)NC(OC(C)(C)C)=O | C12H15NO3
reactant | methylazidoacetate | 12.96 mmol, 1.49 g | COC(CN=[N+]=[N-])=O | C3H5N3O2
solvent | methanol | 6 mL | CO | CH4O
solvent | methanol | 6 mL | CO | CH4O
product | methyl (2E)-2-azido-3-{4-[(tert-butoxycarbonyl)amino]phenyl}prop-2-enoate | 551 mg | N(=[N+]=[N-])\C(\C(=O)OC)=C\C1=CC=C(C=C1)NC(=O)OC(C)(C)C | C15H18N4O4
